US05021439
A solution of lithium diisopropylamide (30.8%, 10.5 ml, 22 m mol) in hexane was added to a solution of dimethyl (R)-N-tert-butoxycarbonylaspartate (2.61 g, 10 m mol) in tetrahydrofuran (50 ml) at -78° C. in a stream of nitrogen and the mixture was stirred for 10 minutes at -78° C. After stirring for 20 minutes at -40° C., the reaction mixture was again cooled to -78° C., to which a solution of acetylimidazole (1.32 g, 12 m mol) in tetrahydrofuran (15 ml) was added dropwise. After stirring the reaction mixture for 10 minutes, a saturated ammonium chloride solution was added and the resulting mixture was stirred at room temperature. The resultant was diluted with water and extracted with ethyl acetate. The organic layer was washed with a saturated NaCl solution, dried over sodium sulfate and distilled off under reduced pressure to remove the solvent. The residue was subjected to a silica gel column chromatography (2.5×40 cm; ethyl acetate: hexane=1:3) to obtain dimethyl (R)-N-tert-butoxycarbonyl-3-acetylaspartate (1.16 g, 38%) as colorless oil.

reactant | lithium diisopropylamide | 10.5 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | dimethyl (R)-N-tert-butoxycarbonylaspartate | 2.61 g | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OC)C(=O)OC | C11H19NO6
reactant | acetylimidazole | 1.32 g | C(C)(=O)C=1NC=CN1 | C5H6N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | dimethyl (R)-N-tert-butoxycarbonyl-3-acetylaspartate | 1.16 g, 38% | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)OC)C(C)=O)C(=O)OC | C13H21NO7
